US07723529B2
To a mixture of pentafluorophenol (3.3 g, 17.96 mmol), 4-bromobutanoic acid (3.0 g, 17.96 mmol) and DMAP (0.440 g, 3.59 mmol) in CH2Cl2 (30 ml), cooled to 0° C., EDAC.HCl (5.2 g, 26.94 mmol) was added in portion. The mixture was then stirred at 0° C. for 30 minutes. Then it was gradually warmed to room temperature and stirred for 480 minutes. Then the mixture was diluted with NaH2PO4 aqueous (5%, 50 ml) and acidified with HCl 1N to pH 3-4. The organic phase was separated and the aqueous phase was extracted with CH2Cl2 (2×50 ml). The organic phase washed with brine, dried over Na2SO4 and evaporated to give an oil that was purified by flash chromatography (n-Hexane/EtOAc 98:2) to yield 4-bromobutanoic acid pentafluorophenyl ester (5.2 g, 86%) as a colorless oil.

reactant | pentafluorophenol | 17.96 mmol, 3.3 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 4-bromobutanoic acid | 17.96 mmol, 3.0 g | BrCCCC(=O)O | C4H7BrO2
reactant | EDAC.HCl | 26.94 mmol, 5.2 g | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 1N | Cl | ClH
catalyst | DMAP | 3.59 mmol, 0.440 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-bromobutanoic acid pentafluorophenyl ester | 5.2 g, 86% | FC1=C(C(=C(C(=C1OC(CCCBr)=O)F)F)F)F | C10H6BrF5O2
